US07037908B2
2-(1,1-Dioxo-1λ6-[1,2]thiazinan-2-yl)-N-hydroxy-N-methyl-benzamidine.
To a stirred solution of 2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzonitrile and N-methylhydroxylamine hydrochloride (1.67 g, 20 mmol) in 1:1 water/ethanol (70 mL) was added sodium carbonate (1.06 g, 10 mmol) and the resulting mixture stirred at 90° C. for 18 h. After cooling and concentration, the resulting residue was suspended in MeOH/CHCl3 (100 mL, 1:9). The insoluble solids were removed by filtration and concentration of the filtrate gave the crude product as an amber oil (3.5 g) that was carried on without further purification. LCMS calcd for C12H17N3O3S (M+H): 284.35; found: 284.27.

reactant | 2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzonitrile | O=S1(N(CCCC1)C1=C(C#N)C=CC=C1)=O | C11H12N2O2S
reactant | N-methylhydroxylamine hydrochloride | 20 mmol, 1.67 g | Cl.CNO
reactant | sodium carbonate | 10 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water ethanol | 70 mL | O.C(C)O
product | 2-(1,1-Dioxo-1λ6-[1,2]thiazinan-2-yl)-N-hydroxy-N-methyl-benzamidine | 3.5 g | O=S1(N(CCCC1)C1=C(C(=N)N(C)O)C=CC=C1)=O | C12H17N3O3S
